US06645968B2
4-methyl-N-(2,2,2-trifluoro-1-hydroxyethyl)benzamide
A 500 mL round-bottom flask was charged with trifluoroacetaldehyde ethyl hemiacetal (12.3 g, 85.0 mmol), p-toluamide (10.0 g, 74.0 mmol), and dioxane (150 mL). The thick white slurry was stirred at ambient temperature for 3 hours, then heated at reflux for 44 hours. The homogeneous solution was cooled and concentrated in vacuo to provide a white solid. The crude material was dissolved in ethyl acetate (50 mL), adsorbed onto silica gel (50 g), and eluted through a medium porosity fritted filter funnel (elution with 25% ethyl acetate/hexanes, then ethyl acetate) to provide 14.1 g of the desired product as a white solid.

reactant | trifluoroacetaldehyde ethyl hemiacetal | 85.0 mmol, 12.3 g | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | p-toluamide | 74.0 mmol, 10.0 g | C1(=CC=C(C=C1)C(=O)N)C | C8H9NO
reactant | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-N-(2,2,2-trifluoro-1-hydroxyethyl)benzamide | 14.1 g | CC1=CC=C(C(=O)NC(C(F)(F)F)O)C=C1 | C10H10F3NO2
